US04886785
A solution of 396 mg of 5'-O-(p-toluenesulphonyl)thymidine and 1.5 ml of 4-chlorobenzylamine in 2 ml of DMF was stirred at 80° C. for 2 hours. The solvent was removed by evaporation and the residue was triturated with diethyl ether. The resulting solid was recrystallized from ethanol to yield 56 mg of 5'-(4-chlorobenzylamino)-5'-deoxythymidine, mp 179°-180° C.

reactant | 5'-O-(p-toluenesulphonyl)thymidine | 396 mg | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O)C | C17H20N2O7S
reactant | 4-chlorobenzylamine | 1.5 ml | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 5'-(4-chlorobenzylamino)-5'-deoxythymidine | 56 mg | ClC1=CC=C(CNC[C@@H]2[C@H](C[C@@H](O2)N2C(=O)NC(=O)C(C)=C2)O)C=C1 | C17H20ClN3O4
